US04719200
L-alanyl-L-prolyl-L-proline (2.83 g, 10 m mole) was dissolved in water-dioxane (2:1, 15 ml), and triethyl amine (2.13 g, 21 m mole) was added thereto. To the solution, carbon disulfide (0.76 g, 10 m mole)-dioxane (5 ml) solution was added dropwise. After completion of the addition, the solution was stirred for 1 hour at room temperature. Thereafter, benzyl bromide (1.71 g, 10 m mole) was added thereto; and the mixture was stirred overnight at room temperature, and then water (100 ml) and ethyl acetate (150 ml) were added thereto. The solution was adjusted to pH2 with 1N hydrochloric acid while stirring vigorously. The ethyl acetate phase was separated and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to give a glassy residue. The residue was recrystallized with ethyl acetate-n-hexane to give N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline (2.33 g).

reactant | L-alanyl-L-prolyl-L-proline | 2.83 g | N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C13H21N3O4
reactant | triethyl amine | 2.13 g | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | carbon disulfide | 0.76 g | C(=S)=S | CS2
solvent | water dioxane | 15 ml | O.O1CCOCC1
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(benzylthio)thiocarbonyl-L-alanyl-L-prolyl-L-proline | 2.33 g | C(C1=CC=CC=C1)SC(=S)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C21H27N3O4S2
